US04988384
A mixture of 5.0 g of product of Step 3 and 2.13 g of 2,6-lutidine is heated at 143° C. for 30 minutes. Two drops of DBU are added and the reaction mixture is heated for additional 1 hour and 30 minutes, cooled and worked up as in (b) above to give 4.23 g of the desired product. The reaction can also be carried out in excess of 2,6-lutidine and a catalytic amount of DBU without solvent or in the presence of toluene as solvent giving similar results.

reactant | 2,6-lutidine | N1=C(C=CC=C1C)C | C7H9N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
